US07314888B1
In 3 ml of N,N-dimethylformamide are suspended 0.28 g of methyl 2-[5-(2-hydroxy-4-isobutoxybenzoyl)-2-isobutoxyphenyl]acetate, 0.32 g of potassium carbonate and 0.23 ml of isopentyl iodide. The suspension is stirred at 120° C. for 2 hours. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 0.17 g of methyl 2-[5-(4-isobutoxy-2-isopentyloxybenzoyl)-2-isobutoxyphenyl]-acetate as a colorless oily product.

reactant | methyl 2-[5-(2-hydroxy-4-isobutoxybenzoyl)-2-isobutoxyphenyl]acetate | 0.28 g | OC1=C(C(=O)C=2C=CC(=C(C2)CC(=O)OC)OCC(C)C)C=CC(=C1)OCC(C)C | C24H30O6
reactant | potassium carbonate | 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopentyl iodide | 0.23 ml | C(CC(C)C)I | C5H11I
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-[5-(4-isobutoxy-2-isopentyloxybenzoyl)-2-isobutoxyphenyl]-acetate | 0.17 g | C(C(C)C)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CC(=O)OC)OCC(C)C)C=C1)OCCC(C)C | C29H40O6
